US04220647
A mixture of N-[2(3,4-dimethoxyphenyl)ethyl]2-(p-toluidino)acetamide (3.6 g) and anhydrous potassium carbonate (2.5 g) was added to anhydrous dimethylformamide (25 ml). The mixture was vigorously stirred under ice cooling and to the solution was dropwise added over 20 minutes an anhydrous chloroform solution (5 ml) containing benzyl chloroformate (2.04 g). The reaction mixture was poured into ice-water and extracted with chloroform. The extract was washed with water, dried and the solvent was distilled off. The residue was crystallized by treating with ether to give N-[2-(3,4-dimethoxyphenyl)ethyl]-2-(N-benzyloxycarbonyl-p-toluidino)-acetamide (4.3 g), mp 81° to 85° C.

reactant | N-[2(3,4-dimethoxyphenyl)ethyl]2-(p-toluidino)acetamide | 3.6 g | COC=1C=C(C=CC1OC)CCNC(CNC1=CC=C(C=C1)C)=O | C19H24N2O3
reactant | potassium carbonate | 2.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
reactant | benzyl chloroformate | 2.04 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[2-(3,4-dimethoxyphenyl)ethyl]-2-(N-benzyloxycarbonyl-p-toluidino)-acetamide | 4.3 g | COC=1C=C(C=CC1OC)CCNC(CN(C1=CC=C(C=C1)C)C(=O)OCC1=CC=CC=C1)=O | C27H30N2O5
